US07781591B2
To a solution of 5-(5-formyl-1-benzofuran-2-yl)-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (800 mg, 2.04 mmol) in a mixture of CH2Cl2 (40 mL) and NMP (5 mL) at room temperature under nitrogen was added N-methylpiperazine (613 mg, 6.12 mmol) followed by glacial acetic acid (674 mg, 11.22 mmol) and the reaction mixture was stirred at room temperature for 1 h. Sodium triacetoxyborohydride (2.38 g, 11.22 mmol) was added to the reaction mixture and the reaction was stirred at room temperature for 5 h. The reaction mixture was partitioned between CH2Cl2 and aqueous 1N HCl. The aqueous layer was washed with CH2Cl2 and treated with aqueous 1N NaOH whereupon solids precipitated. The solids were collected and dissolved in CH2Cl2. The solution was washed with water thrice and brine, dried over sodium sulfate, and concentrated and the residue was purified by column chromatography (MeOH/CH2Cl2, 6% to 7.5%) to give 560 mg (58%) of 4-[(4-methyl-1H-indol-5-yl)amino]-5-{5-[(4-methylpiperazin-1-yl)methyl]-1-benzofuran-2-yl}nicotinonitrile as a yellow solid. HPLC retention time: 5.9 min.(g); melting range: 162-165° C. (decom.); and HRMS: 477.24093.

reactant | 5-(5-formyl-1-benzofuran-2-yl)-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 2.04 mmol, 800 mg | C(=O)C=1C=CC2=C(C=C(O2)C=2C=NC=C(C#N)C2NC=2C(=C3C=CNC3=CC2)C)C1 | C24H16N4O2
reactant | N-methylpiperazine | 6.12 mmol, 613 mg | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 11.22 mmol, 674 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 11.22 mmol, 2.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 4-[(4-methyl-1H-indol-5-yl)amino]-5-{5-[(4-methylpiperazin-1-yl)methyl]-1-benzofuran-2-yl}nicotinonitrile | 560 mg, 58% | CC1=C2C=CNC2=CC=C1NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)CN2CCN(CC2)C | C29H28N6O
